US04061647
4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 10 from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 1.6 g of 1-methyl-3-(2-methoxypropyl)-thiourea. M.p. 196° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1-methyl-3-(2-methoxypropyl)-thiourea | 1.6 g | CNC(=S)NCC(C)OC | C6H14N2OS
product | 4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-2-(2-methoxypropylimino)-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C(=C1)Cl)S(N)(=O)=O)C1(N(C(SC1)=NCC(C)OC)C)O | InChI=1S/C14H19Cl2N3O4S2.BrH/c1-8(23-3)6-18-13-19(2)14(20,7-24-13)9-4-12(25(17,21)22)11(16)5-10(9)15;/h4-5,8,20H,6-7H2,1-3H3,(H2,17,21,22);1H
